US07238724B2
(5R)-1-(chloroacetyl)-5-ethynyl-L-prolinamide
To a stirred solution of (5R)-1-(chloroacetyl)-5-ethynyl-L-proline (1.89 g, 8.76 mmol) in THF (50 mL) at −15° C. under nitrogen was added 4-methylmorpholine (1.16 mL, 10.52 mmol), and then isobutylchloroformate (1.25 mL, 9.64 mmol) over 3 minutes. A white precipitate formed. The reaction mixture was stirred at −15° C. under nitrogen for 30 minutes, and a solution of NH3 in dioxane (0.5 M, 88 mL, 43.8 mmol ) was added. The reaction mixture was stirred at −15° C. for 30 minutes, warmed to room temperature, and stirred at that temperature for 16 hours. The reaction mixture was diluted with 4% KHSO4 to ˜pH 4 and extracted with ethyl acetate (3×). The extracts were combined, washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. Purification by flash column chromatography (60-75% ethyl acetate/hexane) provided the titled compound. MS (CI) m/z 215 (M+1)+.

reactant | (5R)-1-(chloroacetyl)-5-ethynyl-L-proline | 8.76 mmol, 1.89 g | ClCC(=O)N1[C@H](C(=O)O)CC[C@@H]1C#C | C9H10ClNO3
reactant | 4-methylmorpholine | 10.52 mmol, 1.16 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 9.64 mmol, 1.25 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NH3 | N | H3N
reactant | dioxane | 43.8 mmol, 0.5 M, 88 mL | O1CCOCC1 | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | KHSO4 | OS(=O)(=O)[O-].[K+]
product | (5R)-1-(chloroacetyl)-5-ethynyl-L-prolinamide | ClCC(=O)N1[C@H](C(=O)N)CC[C@@H]1C#C | C9H11ClN2O2
